US06818787B2
Piperidinium 1-{(1-Methyl-2-(Ethoxycarbonyl)-3-Ethoxy-3-Oxoprop-1-enyl)aminomethyl}-1-Cyclohexane Acetate (127)
Diethyl acetylmalonate (202 mg, 1 mmol), gabapentin (171 mg, 1 mmol), and piperidine (99 μL, 1 mmol) were mixed in anhydrous ethanol (10 mL). After heating under reflux for 16 h, the solvent was removed under reduced pressure to give the title compound with purity greater than 90%. 1H NMR (CDCl3, 400 MHz): δ 1.28 (t, J=7.2 Hz, 6H), 1.38-1.64 (m, 12H), 1.75 (m, 4H), 1.96 (s, 3H), 2.23 (s, 2H), 2.99 (m, 4H), 3.24 (d, J=5.2 Hz, 2H), 4.20 (q, J=7.2 Hz, 4H), 4.35 (s, br, 2H), 7.79 (t, J=5.2 Hz, 1H). MS (ESI) m/z 354.38 (M−H−).

reactant | Diethyl acetylmalonate | 1 mmol, 202 mg | C(C)(=O)C(C(=O)OCC)C(=O)OCC | C9H14O5
reactant | gabapentin | 1 mmol, 171 mg | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | piperidine | 1 mmol, 99 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Piperidinium 1-{(1-Methyl-2-(Ethoxycarbonyl)-3-Ethoxy-3-Oxoprop-1-enyl)aminomethyl}-1-Cyclohexane Acetate | CC(=C(C(=O)OCC)C(=O)OCC)NCC1(CCCCC1)CC(=O)[O-].[NH2+]1CCCCC1 | InChI=1S/C18H29NO6.C5H11N/c1-4-24-16(22)15(17(23)25-5-2)13(3)19-12-18(11-14(20)21)9-7-6-8-10-18;1-2-4-6-5-3-1/h19H,4-12H2,1-3H3,(H,20,21);6H,1-5H2
